US06358945B1
To a solution of 2-amino-4-tert-butyl-6-nitrophenol (300 mg, 1.43 mmol) and pyridine (0.30 mL) in methylene chloride (30 mL) was added 4-nitrophenylchloroformate (280 mg, 1.39 mmol). The mixture was stirred for 24 h. The resulting solution was washed with aqueous sodium bicarbonate (2×20 mL), dried over solid magnesium sulfate and concentrated to an orange solid. Column chromatography (silica gel, eluant=40% EtOAc/petroleum ether) afforded 5-tert-butyl-7-nitro-3H-benzoxazol-2-one (70%).

reactant | 2-amino-4-tert-butyl-6-nitrophenol | 1.43 mmol, 300 mg | NC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H14N2O3
reactant | pyridine | 0.30 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylchloroformate | 1.39 mmol, 280 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-tert-butyl-7-nitro-3H-benzoxazol-2-one | 70% | C(C)(C)(C)C=1C=C(C2=C(NC(O2)=O)C1)[N+](=O)[O-] | C11H12N2O4
